US06458780B1
b) 7-Ethanesulfonyl-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole
A solution of 669 mg of 7-ethanesulfonylimidazo[5,1-b]thiazole in 30 ml of THF was cooled to −40° C. in an argon atmosphere. A 1.6 N n-butyllithium/n-hexane solution (4.3 ml) was added dropwise thereto at the same temperature. The mixture was stirred for 15 min. Tri-n-butylstannyl chloride (0.88 ml) was added thereto, followed by stirring at the same temperature for 10 min. A saturated aqueous ammonium chloride solution was added thereto. The mixture was extracted twice with ethyl acetate. The extract was dried over anhydrous magnesium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=1:1). The title compound (1.54 g) was obtained from the fraction of Rf=0.2.

reactant | 7-ethanesulfonylimidazo[5,1-b]thiazole | 669 mg | C(C)S(=O)(=O)C=1N=CN2C1SC=C2 | C7H8N2O2S2
reactant | n-butyllithium n-hexane | 1.6 N, 4.3 ml | C(CCC)[Li].CCCCCC
reactant | Tri-n-butylstannyl chloride | 0.88 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 7-Ethanesulfonyl-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole | 1.54 g | C(C)S(=O)(=O)C=1N=CN2C1SC(=C2)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C7H7N2O2S2.3C4H9.Sn/c1-2-13(10,11)6-7-9(5-8-6)3-4-12-7;3*1-3-4-2;/h3,5H,2H2,1H3;3*1,3-4H2,2H3;
